US04933345
6-Benzyloxy-3-(3-isoxazolyl)-4-methoxymethyl-β-carboline
0.55 g (1.5 mmol) of 6-benzyloxy-4-methoxymethyl-β-carboline-3-carbaldehyde oxime is dissolved in 30 ml of dry DMF and combined with 0.3 g (1.7 mmol) of N-bromosuccinimide (dissolved in 5 ml of DMF). The reaction mixture is stirred for 10 minutes at room temperature and then 1.5 eq. of trimethylsilylacetylene and 1 ml of triethylamine are added. After 4 hours of agitation at room temperature, 5 ml of 1-molar sodium hydroxide solution is added and subsequently agitation is continued for another hour. The solution is poured into ice water and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and the solvent drawn off. The resultant product is purified by column chromatography on silica gel with ethyl acetate as the eluent. Melting point: 123°-126° C.

reactant | 6-benzyloxy-4-methoxymethyl-β-carboline-3-carbaldehyde oxime | 1.5 mmol, 0.55 g | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C=NO)COC | C21H19N3O3
reactant | N-bromosuccinimide | 1.7 mmol, 5 ml, 0.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | trimethylsilylacetylene | 1.5 eq. | C[Si](C)(C)C#C | C5H10Si
reactant | sodium hydroxide | 1-molar, 5 ml | [OH-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 6-Benzyloxy-3-(3-isoxazolyl)-4-methoxymethyl-β-carboline | C(C1=CC=CC=C1)OC=1C=C2C=3C(=C(N=CC3NC2=CC1)C1=NOC=C1)COC | C23H19N3O3
